US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(1-hydroxyisopentyl)-5-phenylisoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole (0.2 g), butyllithium (1.6M hexane solution, 0.9 ml) and isovaleraldehyde (0.09 ml) were subjected to reaction and post-treatment in a similar manner to that described in Example 44(a) to obtain the title compound (0.2 g, 77%) as a colorless oil.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole | 0.2 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=CC=C1 | C16H20N2O4
reactant | butyllithium | 1.6M, 0.9 ml | C(CCC)[Li]
reactant | isovaleraldehyde | 0.09 ml | C(CC(C)C)=O | C5H10O
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(1-hydroxyisopentyl)-5-phenylisoxazole | 0.2 g, 77% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(CC(C)C)O)C1=CC=CC=C1 | C21H30N2O5
